US06482852B2
(f) (3-Bromo-2-cyclohexylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-yl)-carbamic acid tert-butyl ester
To (2-cyclohexylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-yl)-carbamic acid tert-butyl ester (7.93 g, 21.2 mmol) in CH3CN (300 mL) was added NBS (3.96 g, 22.3 mmol). The mixture was stirred for 1.5 h, then blown dry under a stream of N2. The residue was resuspended in CCl4, filtered, and concentrated to a solid. The solid was recrystallized from CH3CN to yield a white solid (8.5 g, 88%). MS [M−H]− 452, m.p. 142-144° C.

reactant | (2-cyclohexylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-yl)-carbamic acid tert-butyl ester | 21.2 mmol, 7.93 g | C(C)(C)(C)OC(NC1CCCCC2=C1C=CC(=C2)OCC2CCCCC2)=O | C23H35NO3
reactant | NBS | 22.3 mmol, 3.96 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CH3CN | 300 mL | CC#N | C2H3N
product | (3-Bromo-2-cyclohexylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-yl)-carbamic acid tert-butyl ester | 8.5 g, 88% | C(C)(C)(C)OC(NC1CCCCC2=C1C=C(C(=C2)OCC2CCCCC2)Br)=O | C23H34BrNO3
